US03934022
156.5 g (0.5 mol) of (p-chlorophenyl)-(diphenyl)-methyl chloride and 34 g (0.5 mol) imidazole are dissolved in 500 ml acetonitrile, with stirring, and 51 g (0.5 mol) triethylamine are added, whereupon separation of triethylamine hydrochloride occurs even at room temperature. In order to complete the reaction, heating at 50°C is carried out for three hours. After cooling, 1 liter of benzene is added and the reaction mixture is stirred, then washed salt-free with water. The benzene solution is dried over anhydrous sodium sulfate, filtered and concentrated by evaporation; giving 167 g of crude 1-[(p-chlorophenyl)-(bisphenyl)-methyl]-imidazole, m.p. 125°C. By recrystallization from 200 ml benzene and 100 ml ligroin, 115 g (= 71% of the thoery) of pure 1-[(p-chlorophenyl) (bis-phenyl)-methyl]-imidazole of m.p. 140°C are obtained.

reactant | (p-chlorophenyl)-(diphenyl)-methyl chloride | 0.5 mol, 156.5 g | ClC1=CC=C(C=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H14Cl2
reactant | imidazole | 0.5 mol, 34 g | N1C=NC=C1 | C3H4N2
reactant | triethylamine | 0.5 mol, 51 g | C(C)N(CC)CC | C6H15N
reactant | triethylamine hydrochloride | Cl.C(C)N(CC)CC
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | benzene | 1 liter | C1=CC=CC=C1 | C6H6
product | 1-[(p-chlorophenyl)-(bisphenyl)-methyl]-imidazole | 167 g | ClC1=CC=C(C=C1)C(N1C=NC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H17ClN2
